US06352982B1
To a solution of 2-benzylamino-5-chloro-α-(3-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol (0.91 g) in acetic acid ethyl ester (10 ml) were added water (4 ml) and a 1N aqueous solution of sodium hydroxide (3 ml). To the mixture was added monoethyl fumarate ester chloride (330 mg), which was stirred for one hour under ice-cooling. To the mixture was added acetic acid ethyl ester (30 ml). The organic layer was washed with water and dried over anhydrous MgSO41 followed by distilling off the solvent. The residue was dissolved in ethanol (10 mL), to which was added potassium carbonate (400 mg). The mixture was stirred overnight at room temperature. Insolubles were filtered off, and the solvent was distilled off. The residue was purified by means of a silica gel column chromatography to give ethyl ester of 1-benzyl-5-(3-tert-butoxycarbonylaminomethylphenyl)-7-chloro-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetic acid (1.06 g).

reactant | 2-benzylamino-5-chloro-α-(3-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol | 0.91 g | C(C1=CC=CC=C1)NC1=C(C(C2=CC(=CC=C2)CNC(=O)OC(C)(C)C)O)C=C(C=C1)Cl | C26H29ClN2O3
reactant | water | 4 ml | O | H2O
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
solvent | acetic acid ethyl ester | 10 ml | C(C)OC(C)=O | C4H8O2
solvent | acetic acid ethyl ester | 30 ml | C(C)OC(C)=O | C4H8O2
product | 1-benzyl-5-(3-tert-butoxycarbonylaminomethylphenyl)-7-chloro-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetic acid | 1.06 g | C(C1=CC=CC=C1)N1C(C(OC(C2=C1C=CC(=C2)Cl)C2=CC(=CC=C2)CNC(=O)OC(C)(C)C)CC(=O)O)=O | C30H31ClN2O6
